Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:7](=[C:6])[H:13])[H:11])([H:9])[H:10])[H:8],59.272857521497706
[O:1]1[C:2]([H:8])([H:9])[C:3][C@:4]1([C:5](=[O:6])[H:10])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],28.52922470984499
[H:10][H:12].[N:1](=[C:2]1\[O:3][C:4]([H:9])=[C:5]1/[C:6](=[N:7]/[H:13])[H:11])\[H:8]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],81.9281173384974
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[H:14])([H:7])([H:8])[H:9].[C:4]([C:5]([H:15])([H:16])[H:17])[O:6][H:18],67.9460018429526
[N:1](=[C:2](\[O:3][H:9])[C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])\[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],112.70760227544577
[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:6](=[C:5])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],58.0444710674164
[N:1]([C@@:2]1([H:12])[O:3][C:6](=[O:7])[O:5][C:4]1([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],64.95113816069058
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])[H:14])([H:12])([H:13])[H:15],112.312415577402
[C:1]([C:2]([C@@:3]([O:4][H:14])(/[C:5](=[C:6](\[O:7][H:19])[H:17])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:18]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],79.0527621799716
[N:3](=[C:4]([H:9])[H:10])[H:8].[O:1]=[C:2]1[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],67.6534645840516
[C-:4]#[O+:5].[N:1]([C:2](=[O:3])[C:6]#[N:7])([H:8])[H:9]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],51.0289070932659
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:4](=[O+:3][O-:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],138.954858866407
[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([C:5]1([H:14])[H:15])[C:6]([H:16])=[C:7]2[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:7]=[C:6]([H:16])[C@:4]([C:5]([H:14])([H:15])[H:17])([H:13])[C:3]1([H:11])[H:12])([H:8])([H:9])[H:10],103.65998316364401
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[O:3][C:4](=[C:6]([H:12])[H:13])[O:5]1.[H:7][H:14]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],54.30311642114229
[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C+:3]([O:4][H:11])[C:5]#[C-:6])[H:10])([H:7])([H:8])[H:9],70.51886142722091
[C:1]([C:5]#[N:6])([H:7])([H:8])[H:9].[O:2]=[C:3]=[O:4]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9],103.51539593446631
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4](=[C:5]=[O:6])[H:13])([H:11])[H:12])([H:10])[H:14])([H:7])([H:8])[H:9],43.10915698692799
[C:1]([H:8])([H:9])([H:10])[H:13].[C:2]1([O:5][C:6](=[O:7])[H:15])=[C:4]([H:14])[C:3]1([H:11])[H:12]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],76.1561774360849
[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4]([C:5]([H:14])([H:15])[H:16])=[C:6]([O:7])[H:17])([H:11])([H:12])[H:13]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],29.91563746959349
[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8]>>[O-:1][C:2](=[C:3]([N+:4]#[C:5][H:9])[N:6]=[O:7])[H:8],92.54299793205708
[C:1](=[C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])[H:12])([H:9])[H:10].[H:8][H:11]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],84.46316287998269
[N:1](=[C:2](\[C:4]([O:3][H:9])=[O:5])[C:6]#[N:7])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],95.73962311228753
[C:1](=[O:2])([H:7])[H:8].[C:3](=[C:4]([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11].[H:9][H:13]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],31.084746233002903
[C:1]([C@@:2]([O:3][H:12])([C:4]#[C:6][C:7](=[O:5])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],68.569684200296
